US07129238B2
In analogy to example 87.2 (RS)-2-(3-aminomethyl-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-ethoxy-acetamide acetic acid was reacted with acetyl chloride to give (RS)-2-[3-(acetylamino-methyl)-2,6-difluoro-phenyl]-N-(4-cyano-benzyl)-2-ethoxy-acetamide. White foam. MS 402.5 ([M+H]+)

reactant | (RS)-2-(3-aminomethyl-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-ethoxy-acetamide acetic acid | C(C)(=O)O.NCC=1C(=C(C(=CC1)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OCC)F
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (RS)-2-[3-(acetylamino-methyl)-2,6-difluoro-phenyl]-N-(4-cyano-benzyl)-2-ethoxy-acetamide | C(C)(=O)NCC=1C(=C(C(=CC1)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OCC)F | C21H21F2N3O3
